US09079866B2
5-[3-Fluoro-2′-(hexylsulfonyl)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-bromo-2-(hexylsulfonyl)benzene MS (ESI): mass calcd. for C22H24FN3O2S, 413.16; m/z found, 414.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.66 (s, 1H), 8.31 (s, 1H), 8.21-8.13 (m, 2H), 7.81 (m, 1H), 7.72 (m, 1H), 7.49 (dd, J=7.6, 1.2, 1H), 7.43 (dd, J=3.6, 1.4, 1H), 7.40 (s, 1H), 2.89-2.80 (m, 2H), 1.50 (m, 2H), 1.31-1.11 (m, 6H), 0.85 (t, J=7.1, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-bromo-2-(hexylsulfonyl)benzene | BrC1=C(C=CC=C1)S(=O)(=O)CCCCCC | C12H17BrO2S
product | 5-[3-Fluoro-2′-(hexylsulfonyl)biphenyl-4-yl]pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)CCCCCC | C22H24FN3O2S
